US05167949
c) 4-Amino-2-[(3,4-dichlorophenoxy)methyl]pteridine
Obtained using the procedure described in section c of Example 2, starting with 9.6 g (0.080 mole) of 3-amino-2-pyrazinecarbonitrile and 26.3 g (0.12 mole) of 2-(3,4-dichlorophenoxy)acetamidine in 520 ml of absolute ethanol. Refluxing time: 3 hours. Yld: 18.0 g (70%), m.p. 261°-263° C. (ethanol/N,N-dimethylformamide).

reactant | 3-amino-2-pyrazinecarbonitrile | 0.080 mole, 9.6 g | NC=1C(=NC=CN1)C#N | C5H4N4
reactant | 2-(3,4-dichlorophenoxy)acetamidine | 0.12 mole, 26.3 g | ClC=1C=C(OCC(=N)N)C=CC1Cl | C8H8Cl2N2O
reactant | ethanol N,N-dimethylformamide | C(C)O.CN(C=O)C
solvent | ethanol | 520 ml | C(C)O | C2H6O
product | 4-Amino-2-[(3,4-dichlorophenoxy)methyl]pteridine | NC1=NC(=NC2=NC=CN=C12)COC1=CC(=C(C=C1)Cl)Cl | C13H9Cl2N5O
